US05037990
a) p-Nitrophenethylamine
24.2 g. (0.20 mol) Phenethylamine are carefully mixed in an ice-bath with 125 ml. concentrated sulphuric acid. After stirring for 1 hour, 16.8 g. (0.21 mol) ammonium nitrate in 125 ml. concentrated sulphuric acid are carefully added dropwise thereto at 0° to 5° C. After a further hour, the reaction mixture is poured on to 1.5 liters of ice and the pH adjusted to 9 with a concentrated aqueous solution of ammonium hydroxide. The aqueous phase is extracted several times with diethyl ether, the combined organic phases are dried over anhydrous magnesium sulphate, evaporated to dryness and the residue is distilled. There are obtained 14.5 g. (44% of theory) of a colourless oil; b.p. 110°-115° C./0.01 Torr. 1H-NMR (60 MHz, CDCl3, ppm): δ=2.99 (q, 2H, J=2.0 Hz, CH2); 3.05 (t, 2H, J=2.0 Hz, CH2).

reactant | Phenethylamine | 0.20 mol | C(CC1=CC=CC=C1)N | C8H11N
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium nitrate | 0.21 mol | [N+](=O)([O-])[O-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | p-Nitrophenethylamine | [N+](=O)([O-])C1=CC=C(CCN)C=C1 | C8H10N2O2
